US07888503B2
A round-bottomed flask was charged with 9H-fluoren-9-ylmethyl [2-({4-bromo-2-[(2-fluorophenyl)carbonyl]phenyl}amino)-2-oxoethyl]carbamate (580 mg) and tetrahydrofuran (15 mL). The mixture was treated with piperidine (1.5 mL) then stirred at room temperature for 1.5 h. After concentrating to an oil, the residue was taken up in methylene chloride and purified by silica gel chromatography to yield N1-{4-bromo-2-[(2-fluorophenyl)carbonyl]phenyl}glycinamide (135 mg) as a white powder. H1 NMR (d6-dmso): 8.42 (d, 1H), 7.82 (dd, 1H), 7.65-7.72 (m, 1H), 7.6 (dt, 1H), 7.52 (m, 1H), 7.33-7.40 (m, 2H), 4.0-6.4 (br s, 2H), 3.20 (s, 2H).

reactant | 9H-fluoren-9-ylmethyl [2-({4-bromo-2-[(2-fluorophenyl)carbonyl]phenyl}amino)-2-oxoethyl]carbamate | 580 mg | BrC1=CC(=C(C=C1)NC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)C(=O)C1=C(C=CC=C1)F | C30H22BrFN2O4
reactant | piperidine | 1.5 mL | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N1-{4-bromo-2-[(2-fluorophenyl)carbonyl]phenyl}glycinamide | 135 mg | BrC1=CC(=C(C=C1)NC(CN)=O)C(=O)C1=C(C=CC=C1)F | C15H12BrFN2O2
